US07947727B2
N-Ethyl-2-methyl-N-(3,3,3-trifluoro-2-hydroxy-2-{[(6-methyl-1-phenyl-1H-indazol-4-yl)amino]methyl}propyl)benzamide
To a solution of 2-methylbenzoic acid (12.7 mg, 0.09 mmol) in N,N-dimethylformamide (100 μl) was added a solution of O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (34 mg, 0.09 mmol) in dimethylformamide (150 μl) followed by N,N-diisopropylethylamine (36 μl, 0.21 mmol). The mixture was shaken for 5 minutes and then a solution of 3-(ethylamino)-1,1,1-trifluoro-2-{[(6-methyl-1-phenyl-1H-indazol-4-yl)amino]methyl}-2-propanol (27 mg, 0.07 mmol) in N,N-dimethylformamide (150 μl) was added. The mixture was again shaken for 5 minutes and then left to stand at room temperature for 18 hours. The crude reaction was purified by mass-directed autopreparation (System A) to give the title compound (21.1 mg).

reactant | 2-methylbenzoic acid | 0.09 mmol, 12.7 mg | CC1=C(C(=O)O)C=CC=C1 | C8H8O2
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.09 mmol, 34 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 0.21 mmol, 36 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-(ethylamino)-1,1,1-trifluoro-2-{[(6-methyl-1-phenyl-1H-indazol-4-yl)amino]methyl}-2-propanol | 0.07 mmol, 27 mg | C(C)NCC(C(F)(F)F)(O)CNC1=C2C=NN(C2=CC(=C1)C)C1=CC=CC=C1 | C20H23F3N4O
solvent | N,N-dimethylformamide | 100 μl | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 150 μl | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 150 μl | CN(C=O)C | C3H7NO
product | N-Ethyl-2-methyl-N-(3,3,3-trifluoro-2-hydroxy-2-{[(6-methyl-1-phenyl-1H-indazol-4-yl)amino]methyl}propyl)benzamide | 21.1 mg | C(C)N(C(C1=C(C=CC=C1)C)=O)CC(C(F)(F)F)(CNC1=C2C=NN(C2=CC(=C1)C)C1=CC=CC=C1)O | C28H29F3N4O2
